US07659279B2
2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-ethoxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol
The procedure described in Example 17 was repeated using 4-[3-chloro-4-fluoro-anilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]-methoxy}-quinazolin-7-ol (70 mg) and 2-bromoethyl ethyl ether (26 μl) to give the title compound as a white solid in 48% yield; NMR Spectrum (DMSO-d6 at 373 K) 9.80 (br s, 1H), 8.40 (s, 1H), 8.15 (m, 1H), 7.65 (m, 1H), 7.33 (m, 1H), 6.80 (m, 2H), 4.60 (m, 1H), 4.50 (m, 1H), 4.30-4.10 (m, 4H), 4.0 (m, 2H), 3.75 (t, 2H), 3.55 (q, 2H), 3.48-3.37 (m, 2H), 2.10-1.85 (m, 4H), 1.15 (t, 3H); Mass spectrum MH+ 519.

reactant | 4-[3-chloro-4-fluoro-anilino]-5-{[(2R)-1-glycoloylpyrrolidin-2-yl]-methoxy}-quinazolin-7-ol | 70 mg | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)O)C=CC1F | C21H20ClFN4O4
reactant | 2-bromoethyl ethyl ether | 26 μl | C(C)OCCBr | C4H9BrO
product | 2-[(2R)-2-({[4-[3-Chloro-4-fluoroanilino]-7-(2-ethoxyethoxy)quinazolin-5-yl]oxy}methyl)pyrrolidin-1-yl]-2-oxoethanol | 48% yield | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@@H]2N(CCC2)C(CO)=O)OCCOCC)C=CC1F | C25H28ClFN4O5
